US08058425B2
N-[tert-butoxycarbonyl]N-[2-hydroxyeth-1-yl](5-Methyl-1H-indol-7-yl)methylamine
Dissolve N-[2-hydroxyeth-1-yl](5-Methyl-1H-indol-7-yl)methylamine (3.0 g, 14.706 mmol) in tetrahydrofuran (120 mL) and cool the solution to 0° C. Add aqueous potassium carbonate (30 mL, 29.41 mmol, 0.98 M solution) and di-tert-butyl dicarbonate (3.53 g, 16.18 mmol). Stir the reaction mixture for 4 hours at 0° C., add water and extract the aqueous layer with ethyl acetate. Combine the organic layers, dry with anhydrous sodium sulfate, filter, concentrate under reduced pressure and purify by flash column chromatography (silica gel, 20% ethyl acetate/hexane) to give the title compound as a white solid (4.12 g, 92%).

reactant | N-[2-hydroxyeth-1-yl](5-Methyl-1H-indol-7-yl)methylamine | 14.706 mmol, 3.0 g | OCCNCC=1C=C(C=C2C=CNC12)C | C12H16N2O
reactant | potassium carbonate | 29.41 mmol, 0.98 M, 30 mL | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 16.18 mmol, 3.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | N-[tert-butoxycarbonyl]N-[2-hydroxyeth-1-yl](5-Methyl-1H-indol-7-yl)methylamine | 4.12 g, 92% | C(C)(C)(C)OC(=O)N(CCO)CC=1C=C(C=C2C=CNC12)C | C17H24N2O3
